data/mechanisms/records/IMS4-EQ4.32.json
{"mechanism_id": "IMS4-EQ4.32", "species": [{"species_id": "phenylcyclohexene_molecular_ion", "mapped_smiles": "[CH:2]1([C:1]2=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]2)[CH2:3][CH2:4][CH+:5][CH:6][CH2:7]1", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "ring_opened_distonic_radical_cation", "mapped_smiles": "[C:1]1([CH:2][CH2:3][CH2:4][CH+:5][CH:6]=[CH2:7])=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]1", "role": "intermediate", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "styrene_radical_cation", "mapped_smiles": "[C:1]1([CH:2][CH2+:3])=[CH:8][CH:9]=[CH:10][CH:11]=[CH:12]1", "role": "product_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "butadiene_neutral_loss", "mapped_smiles": "[CH2:4]=[CH:5][CH:6]=[CH2:7]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["phenylcyclohexene_molecular_ion"]}, {"state_id": "state_intermediate", "species_ids": ["ring_opened_distonic_radical_cation"]}, {"state_id": "state_products", "species_ids": ["styrene_radical_cation", "butadiene_neutral_loss"]}], "steps": [{"step_id": "step_alpha1_ring_opening", "from_state": "state_precursor", "to_state": "state_intermediate", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [6]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "bond", "atom_maps": [6, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 7]}, "target": {"type": "atom", "atom_maps": [2]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_inductive_charge_migration", "from_state": "state_intermediate", "to_state": "state_products", "step_class": "inductive_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [3, 4]}, "target": {"type": "bond", "atom_maps": [4, 5]}, "electron_count": 2}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha1", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha1_ring_opening", "support_type": "textbook_proposed", "locator": {"page": 70, "equation": "4.32", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (retro-Diels-Alder)"}, "confidence": 0.85, "curator_note": "First alpha-cleavage (ring opening) of the stepwise retro-Diels-Alder of a 4-R-cyclohexene molecular ion - the SAME ring-opening step shared with eq 4.31; the book draws it once (top row of p.70) and the ring-opened distonic radical cation is the common branch point marked with the '|||' (identical-structure) sign between eqs 4.31 and 4.32. ARC COUNT: the book draws 3 arc(s) and all three are printed - a fully drawn 3-fishhook alpha-cleavage. Move <1> (top-right fishhook next to the dot) = the odd electron on the pi-ionized alkene carbon (map 6) into the forming C6=C7 pi bond; move <2> (large central arc across the top of the ring) = one electron of the breaking C2-C7 ring sigma bond into that same forming pi bond; move <3> (small top-left fishhook next to R) = the other electron of the C2-C7 bond onto the R-bearing carbon (map 2). LOCALIZATION (convention B/C): the alkene radical cation is drawn localized as C5(+)-C6(.) (cation map 5, odd electron map 6); the neutral C=C sat between maps 5 and 6. Instantiated as R=C6H5 (4-phenylcyclohexene), map 1 = phenyl ipso carbon."}, {"evidence_id": "evidence_step_inductive", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_inductive_charge_migration", "support_type": "textbook_proposed", "locator": {"page": 70, "equation": "4.32", "figure": null, "panel": null, "section": "4 / Basic Mechanisms of Ion Fragmentation (retro-Diels-Alder, charge migration)"}, "confidence": 0.85, "curator_note": "Inductive (charge-migration) cleavage on the same ring-opened distonic radical cation (eq 4.32, arrow labelled 'i'): the C5(+) charge induces heterolytic cleavage of the C3-C4 bond, both electrons flowing into the new C4=C5 pi bond. ARC COUNT: the book draws 1 arc - a single double-barbed (full arrowhead) curved arrow at the bottom of the intermediate, from the C3-C4 bond sweeping toward the cation. Move <1> (electron_count 2) fully accounts for the step: the map3-map4 bond is broken heterolytically and the map4-map5 bond gains one order, so no implicit hook is needed. Charge MIGRATES from map 5 to map 3: the R-bearing fragment (Ph-CH(.)-CH2(+), the styrene radical cation, m/z 104) keeps the charge and neutral 1,3-butadiene (maps 4-7) leaves. PRINTED INTENSITIES for the R-fragment ion: R=H <5% (IE 10.5); R=C6H5 100% (IE of the styrene fragment 8.4). This record instantiates R=C6H5, hence relative_intensity 1.0 - m/z 104 is the base peak of 4-phenylcyclohexene, phenyl stabilising the migrated charge."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "electron ionization", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 158.109, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_104", "species_id": "styrene_radical_cation", "step_id": "step_inductive_charge_migration", "observed_mz": 104.0621, "relative_intensity": 1.0, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-24T00:00:00Z", "modified_at": "2026-07-24T00:00:00Z"}}
